US05298661
To 19.96 g of the thus obtained N-acetyl-N-(4-methylphenyl)-4'-ethyl-[1,1'-biphenyl]-4-amine were added 150 ml of ethanol and 150 ml of concentrated hydrochloric acid. The reaction mixture was refluxed with stirring for 7 hours and then added to 1 l of ice water. The reaction mixture was then extracted with toluene and the obtained organic portion was washed with water two times, with a saturated aqueous solution of sodium hydrogencarbonate one time, and then with water two times, and dried by use of magnesium sulfate, and condensed under reduced pressure, whereby brown crystals were obtained. The thus obtained product was subjected to a silica gel column chromatography by use of toluene as an eluent, and recrystallized from a mixed solvent of n-hexane and toluene, whereby 4'-ethyl-N-(4-methylphenyl)-[1,1'-biphenyl]-4-amine (Aminobiphenyl Compound No. 2-62 in Table 3) was obtained in the form of colorless plates with a yield of 15.84 g (91.0%). The melting point of the product was 132.5° C. to 133.0° C.

reactant | N-acetyl-N-(4-methylphenyl)-4'-ethyl-[1,1'-biphenyl]-4-amine | C(C)(=O)N(C1=CC=C(C=C1)C1=CC=C(C=C1)CC)C1=CC=C(C=C1)C | C23H23NO
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4'-ethyl-N-(4-methylphenyl)-[1,1'-biphenyl]-4-amine | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=C(C=C1)C | C21H21N
